US08222248B2
To a vial containing a solution of 2-(2,6-dichloro-phenyl)-3H-benzoimidazol-5-ylamine, prepared as described in Example 1-6, in dioxane (0.2 M, 0.10 mL) was added DIPEA (0.5 M in toluene, 0.050 mL), followed by 2,4,6-trimethyl-benzenesulfonyl chloride (0.2 M in toluene, 0.12 mL). After overnight at ambient temperature, solid phase extraction (SPE) by strong cation exchange (SCX) was followed by silica gel column chromatography to give N-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-2,4,6-trimethyl-benzenesulfonamide: MS (m/z) 460.06 (M+1).

reactant | 2-(2,6-dichloro-phenyl)-3H-benzoimidazol-5-ylamine | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)N | C13H9Cl2N3
reactant | DIPEA | 0.5 M, 0.050 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4,6-trimethyl-benzenesulfonyl chloride | 0.2 M, 0.12 mL | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)Cl | C9H11ClO2S
solvent | dioxane | 0.2 M, 0.10 mL | O1CCOCC1 | C4H8O2
product | N-[2-(2,6-Dichloro-phenyl)-3H-benzoimidazol-5-yl]-2,4,6-trimethyl-benzenesulfonamide | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)NS(=O)(=O)C2=C(C=C(C=C2C)C)C | C22H19Cl2N3O2S
